US06521754B2
4-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-ylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester
Using 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol and 4-chlorocarbonyl-piperidine-1-carboxylic acid tert-butyl ester the title compound was obtained as a white solid (3%), MS: m/e=477(M+H+).

reactant | 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol | NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C12H15N3O2S
reactant | 4-chlorocarbonyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)Cl | C11H18ClNO3
product | 4-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-ylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)=O | C23H32N4O5S
